US07524840B2
7-bromo-5-(2-chlorophenyl)-1,3-dihydro-8-(3-(4-morpholinyl)propoxy)-2H-1,4benzodiazepin-2-thione (IIj) was prepared by reacting 0.0011 moles of 7-bromo-5-(2-chlorophenyl)-1,3-dihydro-8-(3-(4-morpholinyl)propoxy)-2H-1,4-benzodiazepin-2-one (Ij) with Lawesson's reagent in a manner analogous to Example 38. MH+/Z=508.

reactant | 7-bromo-5-(2-chlorophenyl)-1,3-dihydro-8-(3-(4-morpholinyl)propoxy)-2H-1,4-benzodiazepin-2-one | 0.0011 moles | BrC=1C(=CC2=C(C(=NCC(N2)=O)C2=C(C=CC=C2)Cl)C1)OCCCN1CCOCC1 | C22H23BrClN3O3
reactant | Lawesson's reagent | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
product | 7-bromo-5-(2-chlorophenyl)-1,3-dihydro-8-(3-(4-morpholinyl)propoxy)-2H-1,4benzodiazepin-2-thione | BrC=1C(=CC2=C(C(=NCC(N2)=S)C2=C(C=CC=C2)Cl)C1)OCCCN1CCOCC1 | C22H23BrClN3O2S
